US07560551B2
In a 20 mL sealed tube was added dioxane (1.0 mL), which was purged with nitrogen for 5 minutes and the tube sealed. To this was added 3-amino-4-bromo-5-methylisoxazole (0.100 g, 0.565 mmol), 4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yloxy)benzenamine (0.265 g, 0.847 mmol), 2.0M aqueous sodium carbonate (0.565 mL, 1.13 mmol) and the tube was purged with nitrogen and sealed. To the mixture was added tri-t-butylphosphonium tetrafluoroborate (0.037 g, 0.13 mmol), tris(dibenzylideneacetone)dipalladium (0)(0.039 g, 0.042 mmol) and the tube was purged with nitrogen, sealed and heated to 100° C. with stirring for 5 hours. The mixture was cooled to RT, passed through pad of silica, which was washed with 100% CH2Cl2:MeOH:NH4OH (90:10: 1)/CH2Cl2. The eluent was concentrated and purified on a Gilson reverse phase chromatography system. The product fractions were extracted into CH2Cl2, washed 1× saturated NaHCO3, 1×H2O, dried with Na2SO4, filtered through fritted funnel and concentrated to yield 4-(2-(4-aminophenoxy)pyridin-3-yl)-5-methylisoxazol-3-amine as light yellow solid. MS m/z=283 [M+1]+. Calc'd for C15H14N4O2: 282.30.

reactant | 3-amino-4-bromo-5-methylisoxazole | 0.565 mmol, 0.100 g | NC1=NOC(=C1Br)C | C4H5BrN2O
reactant | 4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yloxy)benzenamine | 0.847 mmol, 0.265 g | CC1(OB(OC1(C)C)C=1C(=NC=CC1)OC1=CC=C(C=C1)N)C | C17H21BN2O3
reactant | sodium carbonate | 1.13 mmol, 2.0M, 0.565 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | tri-t-butylphosphonium tetrafluoroborate | 0.13 mmol, 0.037 g | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
catalyst | tris(dibenzylideneacetone)dipalladium | 0.042 mmol, 0.039 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | 4-(2-(4-aminophenoxy)pyridin-3-yl)-5-methylisoxazol-3-amine | NC1=CC=C(OC2=NC=CC=C2C=2C(=NOC2C)N)C=C1 | C15H14N4O2
